Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
azithromycin
 
Attending: ___.
 
Chief Complaint:
heavy vaginal bleeding/syncope
 
Major Surgical or Invasive Procedure:
Blood transfusion 

 
History of Present Illness:
___ transferred from ___ with heavy vaginal bleeding.
Patient reports heavy vaginal bleeding from ___, soaking a
pad every ___ min with large clots and mild menstrual cramps.
Bleeding was much improved yesterday and today. She reports
feeling dizzy yesterday so her daughter who is in nursing school
took her BP and said it was "lower than normal." Today she
continued to feel dizzy and had a syncopal episode in the
bathroom after which she presented to the ___. Upon
evaluation at ___ she was found to have a Hct of 18 and
tachycardia up to 120s. They recommended a pelvic exam however
she requested a female provider which they did not have so she
was transferred to ___ ___.

Upon arrival she reports feeling improved after receiving IV
fluids at ___. She states her lightheadedness has improved.
She reports only light bleeding currently. She denies any
palpitations, chest pain, SOB, n/v. Reports that she has not 
been
sexually active for ___ months.

 
Past Medical History:
OBHx: G2P1
- c/s x 1
- SAB x 1

GYNHx:
Reports regular monthly menses usually ___ days, has been closer
to ___ days the past ___ years.
Last pap ___ negative, denies h/o abnormals
Denies history of fibroids, cysts, pelvic pain, STIs, pelvic
infections

PMH: diet-controlled DM, HTN, HLD, denies h/o heart dz, clots

PSH: C-section x 1

 
Social History:
___
Family History:
denies h/o fibroids, GYN cancers, blood clots
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding
GU: Minimal spotting on pad
Ext: no TTP
 
Pertinent Results:
___ 01:05PM BLOOD WBC-12.9* RBC-2.75*# Hgb-7.9*# Hct-24.6*# 
MCV-90 MCH-28.7 MCHC-32.1 RDW-14.3 RDWSD-46.2 Plt ___

___ 05:30PM BLOOD WBC-14.5* RBC-1.82* Hgb-5.0* Hct-16.3* 
MCV-90 MCH-27.5 MCHC-30.7* RDW-14.6 RDWSD-47.5* Plt ___
___ 05:30PM BLOOD Neuts-67.7 ___ Monos-3.0* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-9.80* AbsLymp-4.12* 
AbsMono-0.44 AbsEos-0.01* AbsBaso-0.01
___ 05:30PM BLOOD Glucose-174* UreaN-17 Creat-0.7 Na-139 
K-3.9 Cl-105 HCO3-26 AnGap-12

___: Pelvic ultrasound 
The uterus is anteverted and enlarged, measuring 13.4 x 8.7 x 
9.4 cm.  There is a large posterior fibroid measuring 
approximately 9.1 x 6.0 x 8.3 cm, distorting the endometrium 
which was not seen. The right ovary is normal.  The left ovary 
was not seen. There is no free fluid.   
IMPRESSION:  
1.  Enlarged uterus with a large fibroid distorting the 
endometrium, which is not well assessed. 
2.  Normal right ovary.  Left ovary not seen. 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service for 
syncopal episode due to heavy menstrual bleeding with a Hct of 
16. 

Upon arrival, patient's bleeding had decreased. She was 
transfused 2 units of pRBCs. Upon transfusing the first unit, 
patient developed a temperature of 100.3, but was otherwise 
asymptomatic. Transfusion was stopped and a Direct Coombs test 
was ordered and negative. Her temperature was likely due to a 
febrile non-hemolytic transfusion reaction. Transfusion was 
restarted with 2 new units without difficulty with an 
appropriate rise in hct to 24.6.

By hospital day #2, bleeding was minimal and patient was 
hemodynamically stable. She was voiding, ambulating and 
tolerating a regular diet. Upon discharge, patient was 
prescribed Provera and iron supplementation for further 
management of bleeding and appropriate outpatient follow-up was 
scheduled.
 
Medications on Admission:
amlodipine 10mg daily, lisinopril 20mg daily
 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Docusate Sodium 200 mg PO BID 
Do not take if you are having loose stools or diarrhea 
RX *docusate sodium [Colace] 100 mg ___ capsule(s) by mouth 
twice a day Disp #*90 Capsule Refills:*4
3. Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*6
4. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0
5. Lisinopril 20 mg PO DAILY 
6. MedroxyPROGESTERone Acetate 5 mg PO DAILY at onset of heavy 
bleeding 
take one tab daily, increase up to 4 tabs daily, until bleeding 
stops 
RX *medroxyprogesterone 5 mg ___ tablet(s) by mouth once a day 
Disp #*60 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
blood loss anemia
fibroid uterus
menorrhagia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___ ,

You were admitted to the gynecology service for anemia from a 
heavy period. Your heavy bleeding was likely from a fibroid, 
benign growth in the uterus.  You were no longer bleeding while 
here and you received 2 units of blood for your anemia. You have 
recovered well and the team believes you are ready to be 
discharged home. Please call the office with any questions or 
concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Can take provera which has been prescribed for you if you have 
heavy bleeding again 

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* lightheadedness, fainting
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___